US09428528B2
Step 2 Preparation of 3-(5-bromopyridin-2-yl)oxetan-3-aminium chloride
To a methanol (15 ml) solution of N-(3-(5-bromopyridin-2-yl)oxetan-3-yl)-2-methylpropane-2-sulfinamide (850 mg, 2.55 mmol) that had been cooled to 0° C. is added 4N HCl in dioxane (1.3 ml, 5.2 mmol). The solution is stirred for 1 hour at 0° C. The volatiles were removed by rotary evaporation at low pressure. After several evaporation cycles using acetonitrile (3×10 ml) the title product is obtained (584 mg): m/z (CI) 229, 231 [m+H]+.

reactant | N-(3-(5-bromopyridin-2-yl)oxetan-3-yl)-2-methylpropane-2-sulfinamide | 2.55 mmol, 850 mg | BrC=1C=CC(=NC1)C1(COC1)NS(=O)C(C)(C)C | C12H17BrN2O2S
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 5.2 mmol, 1.3 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 15 ml | CO | CH4O
product | 3-(5-bromopyridin-2-yl)oxetan-3-aminium chloride | [Cl-].BrC=1C=CC(=NC1)C1(COC1)[NH3+] | InChI=1S/C8H9BrN2O.ClH/c9-6-1-2-7(11-3-6)8(10)4-12-5-8;/h1-3H,4-5,10H2;1H
